US08455525B2
4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)benzo[b]thiophene-7-carbonitrile
To a solution of triphenylphosphine (275 mg, 1.43 mmol) in DCM (24 mL) was added 12 (363 mg, 1.43 mmol) at 0° C. After 12 was dissolved completely, Et3N (0.40 mL, 2.87 mmol) was added, followed by a solution of N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(7-cyanobenzo[b]thiophen-4-ylamino)butanoyl)-4-cyanobenzohydrazide (380 mg, 0.71 mmol) in DCM (12 mL). After addition, the reaction mixture was allowed to warm to room temperature and stirred for additional 10 min. The reaction was quenched with saturated sodium thiosulfate (3 mL) and diluted with DCM (100 mL). The organic layer was separated and washed with water, brine and dried over Na2SO4. Removal of the solvent gave a residue, which was purified by flash chromatography to provide the title compound 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)benzo[b]thiophene-7-carbonitrile (360 mg, 98%). 1H NMR (400 MHz, CDCl3, δ in ppm) 8.22 (d, J=8.4 Hz, 2H), 7.93 (d, J=8.4 Hz, 2H), 7.73 (d, J=5.5 Hz, 1H), 7.68 (d, J=8.2 Hz, 1H), 7.55 (d, J=5.5 Hz, 1H), 6.63 (d, J=8.2 Hz, 1H), 5.89 (d, J=8.6 Hz, 1H), 5.12 (m, 1H), 4.74 (m, 1H), 1.61 (d, J=6.2 Hz, 3H), 1.05 (s, 9H), 0.26 (s, 3H), 0.00 (s, 3H).

reactant | triphenylphosphine | 1.43 mmol, 275 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et3N | 2.87 mmol, 0.40 mL | CCN(CC)CC | C6H15N
reactant | N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(7-cyanobenzo[b]thiophen-4-ylamino)butanoyl)-4-cyanobenzohydrazide | 0.71 mmol, 380 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=CC=C(C=2SC=CC21)C#N)C | C27H31N5O3SSi
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)benzo[b]thiophene-7-carbonitrile | 360 mg, 98% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=CC=C(C=2SC=CC21)C#N)C | C27H29N5O2SSi
